US04866089
(1) Preparation of 6,7-dimethoxy-2,2-dimethyl-4-chromanone
In 100 ml of acetone 4.2 g (20 millimoles) of 6,7-dihydroxy-2,2-dimethyl-4-chromanone are dissolved and to the solution 8.3 g (60 millimoles) of potassium carbonate and 8.5 g (3.8 ml, 60 millimoles) of methyl iodide are added. The reaction mixture is refluxed for 7 hours whereupon a further amount of 2.8 g (1.2 ml, 20 millimoles) of methyl iodide are added. The reaction mixture is heated to boiling for 3 hours, the suspension formed is cooled under stirring, the precipitated inorganic salt is filtered off, washed twice with 20 ml of acetone each and the acetone is removed. The residue is crystallized from 80% ethanol. Thus 4.5 g of the desired compound are obtained, yield 95.2%. Mp.: 105°-106° C.

reactant | acetone | 20 millimoles, 100 ml, 4.2 g | CC(=O)C | C3H6O
reactant | potassium carbonate | 60 millimoles, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 60 millimoles, 3.8 ml, 8.5 g | CI | CH3I
reactant | methyl iodide | 20 millimoles, 1.2 ml, 2.8 g | CI | CH3I
reactant | 6,7-dihydroxy-2,2-dimethyl-4-chromanone | OC=1C=C2C(CC(OC2=CC1O)(C)C)=O | C11H12O4
product | 6,7-dimethoxy-2,2-dimethyl-4-chromanone | 4.5 g, yield 95.2% | COC=1C=C2C(CC(OC2=CC1OC)(C)C)=O | C13H16O4
